US08313669B2
8.1. 2-(4-Benzyloxybut-1-enyl)-4-bromophenol
60.0 g (122 mmol) of (3-benzyloxypropyl)triphenylphosphonium bromide are initially introduced in 400 ml of THF, and a solution of 25.0 g (223 mmol) of potassium tert-butoxide in 100 ml of THF is added dropwise at −10° C. A solution of 20.0 g (99.5 mmol) of 5-bromo-2-hydroxybenzaldehyde in 200 ml of THF is subsequently added dropwise at 0° C., and the batch is stirred overnight at room temp. The reaction mixture is subsequently hydrolysed using water and extracted three times with MTB ether. The combined org. phases are washed with water and sat. sodium chloride soln. and dried over sodium sulfate. The solvent is removed in vacuo, and the residue is filtered through silica gel with heptane/ethyl acetate (4:1), giving a mixture of cis- and trans-2-(4-benzyloxybut-1-enyl)-4-bromophenol as a colourless oil, which is reacted without further purification.

reactant | (3-benzyloxypropyl)triphenylphosphonium bromide | 122 mmol, 60.0 g | [Br-].C(C1=CC=CC=C1)OCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 223 mmol, 25.0 g | CC(C)([O-])C.[K+]
reactant | 5-bromo-2-hydroxybenzaldehyde | 99.5 mmol, 20.0 g | BrC=1C=CC(=C(C=O)C1)O | C7H5BrO2
reactant | water | O | H2O
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 2-(4-Benzyloxybut-1-enyl)-4-bromophenol | C(C1=CC=CC=C1)OCCC=CC1=C(C=CC(=C1)Br)O | C17H17BrO2
